US09029487B2
Preparation of Intermediate, 3,6-di-tert-butyl-9-(2-(methoxymethoxy)-5-(2,4,4-trimethylpentan-2-yl)phenyl)-9H-carbazole, (P4)
Heat a mixture of 4.96 g (13.18 mmol) of 2-iodo-1-(methoxymethoxy)-4-(2,4,4-trimethylpentan-2-yl)benzene (P3), Preparation 3; 3.68 g (13.18 mmol) of 3,5-di-t-butylcarbazole (P1), Preparation 1; 0.53 g (2.6 mmol) of CuI, 8.42 g (39.54 mmol) of K3PO4, and 0.63 g (4.13 mmol) of N,N′-dimethylethylenediamine in 25 mL of toluene under nitrogen atmosphere to reflux and reflux for 24 hours. Cool the reaction mixture, dilute it with 25 mL of THF, and filter to remove solid. Concentrate the filtrate to give a solid residue. Crystallize the solid residue from acetonitrile to yield 5.5 g (90%) of (P4) as white solid.

reactant | 2-iodo-1-(methoxymethoxy)-4-(2,4,4-trimethylpentan-2-yl)benzene | 13.18 mmol, 4.96 g | IC1=C(C=CC(=C1)C(C)(CC(C)(C)C)C)OCOC | C16H25IO2
reactant | 3,5-di-t-butylcarbazole | 13.18 mmol, 3.68 g | C(C)(C)(C)C=1C=CC=2NC3=CC=CC(=C3C2C1)C(C)(C)C | C20H25N
reactant | K3PO4 | 39.54 mmol, 8.42 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 4.13 mmol, 0.63 g | CNCCNC | C4H12N2
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | CuI | 2.6 mmol, 0.53 g | [Cu]I
product | 3,6-di-tert-butyl-9-(2-(methoxymethoxy)-5-(2,4,4-trimethylpentan-2-yl)phenyl)-9H-carbazole | C(C)(C)(C)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C(C)(C)C)C1=C(C=CC(=C1)C(C)(CC(C)(C)C)C)OCOC | C36H49NO2
